US09120757B2
A mixture of 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enyl)morpholine (293 mg, 1.00 mmol, 1.00 equiv), (R/S) 4-iodo-1-(oxan-2-yl)-1H-pyrazole-3-carbaldehyde (306 mg, 1.00 mmol, 1.00 equiv), K3PO4 (640 mg, 3.02 mmol, 3.02 equiv) and Pd(dppf)Cl2 (65.1 mg, 0.10 mmol, 0.10 equiv) in ethylene glycol dimethyl ether (5 mL) was stirred under nitrogen at 85° C. for 12 h. The reaction was cooled to room temperature and concentrated under vacuum. The residue was purified on a silica gel column eluted with 50-100% of ethyl acetate in petroleum ether to give 280 mg (81%) of (R/S) 4-(4-morpholinocyclohex-1-enyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-3-carbaldehyde as a brown oil. LCMS (method C, ESI): RT=0.70 min, m/z=346.2 [M+H]+.

reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enyl)morpholine | 1.00 mmol, 293 mg, 1.00 equiv | CC1(OB(OC1(C)C)C1=CCC(CC1)N1CCOCC1)C | C16H28BNO3
reactant | (R/S) 4-iodo-1-(oxan-2-yl)-1H-pyrazole-3-carbaldehyde | 1.00 mmol, 306 mg, 1.00 equiv | IC=1C(=NN(C1)C1OCCCC1)C=O | C9H11IN2O2
reactant | K3PO4 | 3.02 mmol, 640 mg, 3.02 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.10 mmol, 65.1 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R/S) 4-(4-morpholinocyclohex-1-enyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-3-carbaldehyde | 280 mg, 81% | O1CCN(CC1)C1CC=C(CC1)C=1C(=NN(C1)C1OCCCC1)C=O | C19H27N3O3
